US07399780B2
2-(5-Cyano-2-hydroxy-1H-indol-3-yl)-N-[2-(dimethylamino)ethyl]isonicotinamide
To a suspension of sodium hydride (0.15 g, 3.70 mmol, 60% dispersion in oil, pre-washed with hexane) in N,N-dimethylformamide (3 mL) was added a solution of 5-cyanooxindole (0.29 g, 1.84 mmol) in N,N-dimethylformamide (4 mL). The mixture was stirred for 30 min under a nitrogen atmosphere. 2-Chloro-N-[2-(dimethylamino)ethyl]isonicotinamide (0.21 g, 0.92 mmol) dissolved in N,N-dimethylformamide (4 mL) was added dropwise and the mixture was stirred at room temperature for 30 min and then heated at 150° C. for 45 min. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and water. A 2 M aqueous HCl solution was added until pH 2 and the mixture was extracted with ethyl acetate. To the aqueous layer, a 45% aqueous NaOH solution was added until pH 11 and the suspension was extracted with ethyl acetate. The aqueous layer was concentrated in vacuo and the crude product was purified by preparative HPLC (column: Xterra, 19×300 mm, eluent: 0.05 M NH4OAc buffert/acetonitrile, 9:1 to 3:7) to give 15 mg (5% yield) of the title compound as a red solid: 1H NMR (DMSO-d6, 400 MHz) δ 14.88 (br s, 1 H), 11.03 (br s, 1 H), 9.10 (br s, 1 H), 8.28 (d, J=6 Hz, 1 H), 8.04-7.96 (m, 1 H), 7.95-7.83 (m, 1 H), 7.42-7.34 (m, 1 H), 7.13-7.02 (m, 2 H), 3.62-3.50 (m, 2 H), 2.86-2.69 (m,.2 H), 2.58-2.29 (m, 6 H); MS (TSP) m/z 350 (M++1).

reactant | sodium hydride | 3.70 mmol, 0.15 g | [H-].[Na+]
reactant | 5-cyanooxindole | 1.84 mmol, 0.29 g | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 2-Chloro-N-[2-(dimethylamino)ethyl]isonicotinamide | 0.92 mmol, 0.21 g | ClC=1C=C(C(=O)NCCN(C)C)C=CN1 | C10H14ClN3O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-(5-Cyano-2-hydroxy-1H-indol-3-yl)-N-[2-(dimethylamino)ethyl]isonicotinamide | 15 mg, 5% yield | C(#N)C=1C=C2C(=C(NC2=CC1)O)C=1C=C(C(=O)NCCN(C)C)C=CN1 | C19H19N5O2
